US07902367B2
Step 61c) N-[[1-[2-(Methoxycarbonyl)phenyl]piperidin-3-yl]methyl]phthalimide
Triphenylphosphine (1.68 g, 6.20 mmol) and phthalimide (799 mg, 5.43 mmol) were added to methyl 2-[3-(hydroxymethyl)piperidin-1-yl]benzoate (1.29 g, 5.17 mmol) in tetrahydrofuran (10 mL). The reaction mixture was stirred at room temperature for 10 min and a 40% diethyl azodicarboxylate/toluene solution (3.52 mL, 7.76 mmol) was added. The mixture was then stirred at room temperature for 8 hours. Subsequently, water was added and the mixture was extracted with ethylacetate. The extract was washed with brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=20:1->5:1) gave 1.85 g (95%) of the desired compound as a pale yellow oil.

reactant | Triphenylphosphine | 6.20 mmol, 1.68 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 5.43 mmol, 799 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | methyl 2-[3-(hydroxymethyl)piperidin-1-yl]benzoate | 5.17 mmol, 1.29 g | OCC1CN(CCC1)C1=C(C(=O)OC)C=CC=C1 | C14H19NO3
reactant | diethyl azodicarboxylate toluene | 7.76 mmol, 3.52 mL | N(=NC(=O)OCC)C(=O)OCC.C1(=CC=CC=C1)C
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[[1-[2-(Methoxycarbonyl)phenyl]piperidin-3-yl]methyl]phthalimide | 1.85 g, 95% | COC(=O)C1=C(C=CC=C1)N1CC(CCC1)CN1C(C=2C(C1=O)=CC=CC2)=O | C22H22N2O4
